data/pmechdb/original/mc_train_fold0/raw/train.txt
CCC(C)C[CH:20]([C:10](=[C:11](C)[OH:12])C(=O)OCC)[NH+:21]1CCCCC1.CC(=O)[O-].C1CCNCC1.O>>CCC(C)C[CH:20]=[C:10]([C:11](=[OH+:12])C)C(=O)OCC.C1CC[NH:21]CC1.CC(=O)[O-].C1CCNCC1.O 10,11=10,20;20,21=21;12=11
[H:20][Cl:21].[C-:10]#CC(=O)C1=CC=CC=C1>>[H:20][C:10]#CC(=O)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21
[H:20][O:21]CC=C.[Li:11][CH:10](C)C>>[H:20][CH:10](C)C.[Li+:11].C=CC[O-:21] 10,11=10,20;20,21=21
[H:20][O:21]CCOC1=CC=C(C=C1)OCCO.[C-:10](Br)(Br)Br.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][C:10](Br)(Br)Br.C1=CC(=CC=C1OCCO)OCC[O-:21].C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
[H:20][C:21](C#N)(C1C2=C(C=CC(=C2)Cl)N(S1)C)[C:22](=[O:23])OCC.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CCO[C:22](=[C:21](C#N)C1C2=C(C=CC(=C2)Cl)N(S1)C)[O-:23] 10=20;22,23=23;20,21=21,22
CCC1CC[C+:20](C1)C.[OH2:10]>>CCC1CC[C:20](C1)(C)[OH2+:10] 10=20,
C=C[C:20](C1=CC=CC=C1)([O-:10])[Cl:21]>>C=C[C:20](=[O:10])C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21
CS(=O)(=O)[O:21][CH2:20]C12CCC[CH:11]=[C:10]1CCC2.CC(=O)[O-]>>CS(=O)(=O)[O-:21].C1C[CH+:11][C:10]23CCCC2(C1)[CH2:20]3.CC(=O)[O-] 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C.C1CC2(CCC1C=O)OCC[O:10]2.CO.O>>[H:20][O+:10]1CCOC12CCC(CC2)C=O.CC(=O)[O-:21].CO.O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C.[OH2:10]>>[H:20][OH2+:10].CS(=O)(=O)[O-:21] 10=20;20,21=21
CC(C)CC(CC1CCCCC1)[OH:10].[O:21]=[S:20](Cl)Cl.C1COCCO1>>CC(C)CC(CC1CCCCC1)[OH+:10][S:20]([O-:21])(Cl)Cl.C1COCCO1 10=20;20,21=21
C[C:20]([C:21]#N)([O-:10])OC>>C[C:20](=[O:10])OC.[C-:21]#N 10=20;20,21=21
C1CC[C:20](=[O:21])CC1.C1=CC=C(C=C1)[NH2:10].CC(=O)O>>C1CC[C:20](CC1)([NH2+:10]C2=CC=CC=C2)[O-:21].CC(=O)O 10=20;20,21=21
C1CO[C:20](O1)([NH3+:21])[OH:10]>>C1CO[C:20](=[OH+:10])O1.[NH3:21] 10=20;20,21=21
B([O+:21]([CH3:20])C1=C(C=C(C=C1)CCC)C)(Br)Br.[Br-:10]>>B([O:21]C1=C(C=C(C=C1)CCC)C)(Br)Br.[CH3:20][Br:10] 10=20;20,21=21
[B-:10](CCCC)(CCCC)(OC(=CC)N1C(COC1=O)CC2=CC=CC=C2)[O:11]S(=O)(=O)C(F)(F)F.CC[NH+](CC)CC>>[B:10](CCCC)(CCCC)OC(=CC)N1C(COC1=O)CC2=CC=CC=C2.C(F)(F)(F)S(=O)(=O)[O-:11].CC[NH+](CC)CC 10,11=11
[H:20][O+:21](C)C(C1=CC(=C(C=C1)[NH3+])OC)(O)O.C[OH:10].OS(=O)(=O)[O-]>>[H:20][OH+:10]C.COC1=C(C=CC(=C1)C(O)(O)[O:21]C)[NH3+].OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH+:21]C(C)NC.[OH2:10]>>[H:20][OH2+:10].CC(NC)[OH:21] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH:20]2CC(CC(C2OC(=[O:10])C)CC(C)C)C3CCCCC3>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1=[O+:10][CH:20]2CC(CC(C2O1)CC(C)C)C3CCCCC3 10=20;20,21=21
[H:20][C:21]1(CC2(CC(C1C)C3=C(C2=O)N(C=C3C4=CN=C(C(=N4)OC)C5=CN(C6=CC(=CC=C65)Br)S(=O)(=O)C7=CC=C(C=C7)C)COCC[Si](C)(C)C)OC)[O:22][I+:23]8(C9=C(C=CC=C9)C(=O)O8)OC(=O)C.CC(=O)[O-:10].CC(=O)O>>[H:20][O:10]C(=O)C.CC1C2CC(C[C:21]1=[O:22])(C(=O)C3=C2C(=CN3COCC[Si](C)(C)C)C4=CN=C(C(=N4)OC)C5=CN(C6=CC(=CC=C65)Br)S(=O)(=O)C7=CC=C(C=C7)C)OC.CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.CC(=O)O 10=20;22,23=23;20,21=21,22
[H:20][O+:21]=C(CCNCC)NCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCNCCC(=[O:21])NCC 10=20;20,21=21
C[Si-:10](C)(C)([OH2+:11])Cl>>C[Si:10](C)(C)Cl.[OH2:11] 10,11=11
[H:20][O:21][C:22]1=[NH+:23]C2=CC=CC=C2C(C1)CC.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.CCC1C[C:22](=[O:21])[NH:23]C2=CC=CC=C12 10=20;20,21=21,22;22,23=23
CC(=[O:10])N.C[Si:20](C)(C)Cl>>CC(=[O+:10][Si-:20](C)(C)(C)Cl)N 10=20,
[H:20][C:21]1(CCCC1=O)[C:22](=[O:23])C.C1C[CH:10]=[C:11](C1)[O-:12]>>[H:20][CH:10]1CCC[C:11]1=[O:12].C[C:22](=[C:21]1CCCC1=O)[O-:23] 10,11=10,20;12=11;22,23=23;20,21=21,22
CC(C)CCCC(C)C1CCC2C1(CCC3C2CC=C4C3(CC[C:11](=[CH:10]4)[N:12]5CCCC5)C)C.C=C[CH2:20][Br:21]>>CC(C)CCCC(C)C1CCC2C1(CCC3C2CC=C4C3(CC[C:11](=[N+:12]5CCCC5)[CH:10]4[CH2:20]C=C)C)C.[Br-:21] 10,11=10,20;20,21=21;12=11
C[CH:20]([O-:10])[O:21][AlH3-]>>C[CH:20]=[O:10].[O-:21][AlH3-] 10=20;20,21=21
CC1(OC2C([CH:20](C[S:10]C2O1)[O:21]S(=O)(=O)C)OS(=O)(=O)C)C.CO[Na]>>CC1(OC2C([CH:20]3C[S+:10]3C2O1)OS(=O)(=O)C)C.CS(=O)(=O)[O-:21].CO[Na] 10=20;20,21=21
[B:20](C1CCCCC1)(C2CCCCC2)OC(=CC)C(C)COCC3=CC=CC=C3.CCC=C(C)C=[O:10]>>[B-:20](C1CCCCC1)(C2CCCCC2)(OC(=CC)C(C)COCC3=CC=CC=C3)[O+:10]=CC(=CCC)C 10=20,
CC1(CC2[CH:10]3[C:11]2(C1[CH+:20]3)C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)[O-]>>C[C+:11]1C2CC(C1[CH:20]=[CH:10]2)(C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)[O-] 10,11=10,20
CC1=C(CCC(C1)(C)C[OH:10])O[Si](C(C)C)(C(C)C)C(C)C.COCC1C(C(C([CH:20]=[O+:21]1)OC)OC)OC.CC1=CC(=NC(=C1)C(C)(C)C)C(C)(C)C.CS(=O)(=O)[O-].CS(=O)(=O)OSC1=CC=CC=C1>>CC1=C(CCC(C1)(C)C[OH+:10][CH:20]2C(C(C(C([O:21]2)COC)OC)OC)OC)O[Si](C(C)C)(C(C)C)C(C)C.CC1=CC(=NC(=C1)C(C)(C)C)C(C)(C)C.CS(=O)(=O)[O-].CS(=O)(=O)OSC1=CC=CC=C1 10=20;20,21=21
[B-]([O+]=C(C1=C(C=C(C=C1O)O)[OH:10])C([CH:20]=[N+:21](C)C)C2=CC=C(C=C2)O)(F)(F)F.CC[OH+]CC.O=P(Cl)(Cl)Cl.[Cl-]>>[B-]([O+]=C1C([CH:20]([OH+:10]C2=C1C(=CC(=C2)O)O)[N:21](C)C)C3=CC=C(C=C3)O)(F)(F)F.CC[OH+]CC.O=P(Cl)(Cl)Cl.[Cl-] 10=20;20,21=21
CC[N+:23](=[S:22]([O:21][CH2:20]C)F)CC.[F-:10].F>>CC[N:23](CC)[S:22](=[O:21])F.C[CH2:20][F:10].F 10=20;22,23=23;20,21=21,22
C[CH2:20][Br:21].C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3>>C[CH2:20][P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[Br-:21] 10=20;20,21=21
